US05030641
1-(2-aminocarbonylaminoethyl)-4-nitroxypiperidine
1.53 g. 1-(2-aminoethyl)-4-nitroxypiperidine fumarate are dissolved in 15 ml. methanol and 5 ml. water. 1.62 g. Potassium cyanate is added thereto and the reaction mixture is stirred overnight at ambient temperature. A pH value of 10 is adjusted by the addition of potassium carbonate. The reaction mixture is extracted with ethyl acetate and the extracts are dried with anhydrous sodium sulphate. After evaporation and trituration of the residue with diethyl ether, the resultant crystals are filtered off with suction. There is obtained 1 g. of the title compound, i.e. 86% of theory; m.p. 114°-116° C.

reactant | 1-(2-aminoethyl)-4-nitroxypiperidine fumarate | C(\C=C\C(=O)O)(=O)O.NCCN1CCC(CC1)O[N+](=O)[O-]
reactant | methanol | CO | CH4O
reactant | Potassium cyanate | [O-]C#N.[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-(2-aminocarbonylaminoethyl)-4-nitroxypiperidine | NC(=O)NCCN1CCC(CC1)O[N+](=O)[O-] | C8H16N4O4
